US05480873
2-Amino-9,10-dihydro-4,5-dimethoxy-9,10-dioxoanthracene (1 g) was suspended in a 48% solution of hydrobromic acid in water (30 ml) and heated to reflux under an atmosphere of nitrogen for sixty hours. The red suspension turned brown. The mixture was poured into water (100 ml), creating a red precipitate which was collected by filtration. Drying in vacuo over silica gel yielded 2-amino-9,10-dihydro-4,5-dihydroxy-9,10-dioxoanthracene as a dark red powder, m.p. 250°-252° C.

reactant | 2-Amino-9,10-dihydro-4,5-dimethoxy-9,10-dioxoanthracene | 1 g | NC1=CC=2C(C3=CC=CC(=C3C(C2C(=C1)OC)=O)OC)=O | C16H13NO4
reactant | hydrobromic acid | Br | BrH
solvent | water | 30 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-amino-9,10-dihydro-4,5-dihydroxy-9,10-dioxoanthracene | NC1=CC=2C(C3=CC=CC(=C3C(C2C(=C1)O)=O)O)=O | C14H9NO4
